US04048330
2-Acetylnaphthalene is prepared by treating 2-(1'-bromoethyl)naphthalene, prepared as described above, wtih sodium acetate in acetic acid to afford 2-(1'-acetonyethyl)naphthalene which upon base hydrolysis furnishes the 2-(1'-hydroxyethyl)naphthalene. The latter is oxidized with an equivalent of chromium trioxide in glacial acetic acid, or 8N sulfuric acid and acetone to furnish 2-acetylnaphthalene. 2-Carboxynaphthalene is prepared from 2-acetylnaphthalene by treating the latter with aqueous sodium hypochlorite. The 2-carboxynaphthalene is treated with diborane in an ether, such as diglyme (diethyleneglycol dimethyl ether), to yield 2-hydroxymethylnaphthalene.

reactant | 2-(1'-bromoethyl)naphthalene | BrC(C)C1=CC2=CC=CC=C2C=C1 | C12H11Br
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Acetylnaphthalene | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
